US05536701
3-(Trifluoromethyl)-1H-pyrazol-5-ol (5.0 g, 0.032 mole) which is known in the art and p-toluene-sulfonic acid monohydrate (0.08 g) were dissolved in ethyl acetate (30 mL) and warmed to 50° C. 3,4-Dihydro-2H-pyran (2.9 g, 0.034 mole) was slowly added over a 10 minute period. After stirring 30 minutes at 50° C., the mixture was cooled and diluted with 100 mL of ethyl acetate. This solution was washed twice with 0.5% hydrochloric acid solution, then dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was treated with 5 mL of ethyl acetate and 20 mL hexanes and filtered to give 1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-ol (5.8 g, 76% yield) as a white solid, mp=129°-130° C.

reactant | 3-(Trifluoromethyl)-1H-pyrazol-5-ol | 0.032 mole, 5.0 g | FC(C1=NNC(=C1)O)(F)F | C4H3F3N2O
reactant | 3,4-Dihydro-2H-pyran | 0.034 mole, 2.9 g | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | p-toluene-sulfonic acid monohydrate | 0.08 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-ol | 5.8 g, 76% yield | O1C(CCCC1)N1N=C(C=C1O)C(F)(F)F | C9H11F3N2O2
